US07985753B2
2-(6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl-) 1,2,3,4-tetrahydro-isoquinoline-7-carbonitrile
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 1,2,3,4-Tetrahydro-isoquinoline-7-carbonitrile to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 1,2,3,4-Tetrahydro-isoquinoline-7-carbonitrile | C1NCCC2=CC=C(C=C12)C#N | C10H10N2
product | 2-(6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl-) 1,2,3,4-tetrahydro-isoquinoline-7-carbonitrile | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2CC1=CC(=CC=C1CC2)C#N | C17H12BrN5O
